US07632834B2
a) 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-7-fluoro-1,4-dihydrobenzo[d][1,3]oxazin-2-one
A solution of 232 mg (0.649 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 200 mg (0.649 mmol) of 1-(3-amino-3-methylbutyl)-4,4-diethyl-7-fluoro-1,4-dihydrobenzo[d][1,3]oxazin-2-one in absolute THF (5 mL) is stirred for 2.5 hours at RT. The mixture is cooled to 5° C., combined with 60 mg (2.755 mmol) lithium borohydride, heated to RT, and stirred for 1 hour. The mixture is again cooled to 5° C. and slowly diluted with 15 mL of water and 20 mL of dichloromethane. The phases are separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried with sodium sulfate and concentrated by evaporation in vacuo. The residue is purified by column chromatography (silica gel, dichloromethane/MeOH 95:5). Yield: 257 mg (65%); HPLC-MS: Rt=16.5 min. (method A).

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 0.649 mmol, 232 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 1-(3-amino-3-methylbutyl)-4,4-diethyl-7-fluoro-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 0.649 mmol, 200 mg | NC(CCN1C(OC(C2=C1C=C(C=C2)F)(CC)CC)=O)(C)C | C17H25FN2O2
reactant | lithium borohydride | 2.755 mmol, 60 mg | [BH4-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-7-fluoro-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CCN1C(OC(C2=C1C=C(C=C2)F)(CC)CC)=O)(C)C)O | C34H40FN3O6
